US08563717B2
Intermediate 29: Phenylmethyl 2-(3-hydroxypropyl)-1-piperidinecarboxylate
3-(2-Piperidinyl)-1-propanol (8.69 g, 60.7 mmol) was stirred in acetonitrile (90 ml) with triethylamine (10.40 mL, 74.6 mmol) under N2 and cooled in an ice bath. Benzyl chloroformate (9.53 ml, 66.7 mmol) was added dropwise. After complete addition the reaction was allowed to warm to ambient temperature and stirring then continued overnight. The suspension was filtered and the filtrate evaporated to dryness. The residue was partitioned between ethyl acetate and water. The organic phase was washed with saturated brine, passed through a hydrophobic frit and evaporated to dryness. The residue was purified by chromatography on silica (330 g silica RediSep column, loaded in DCM) using a 0-50% ethyl acetate in cyclohexane gradient over 40 mins. with a 50-100% flush of ethyl acetate on an ISCO Companion. No peaks were detected (254 nm, 280 nm) so the waste was evaporated in vacuo to recover the material. The material was re-columned using identical conditions as before but detecting at 220 nm and collecting all the eluent. The main product peak was collected and evaporated in vacuo to give the title compound as a yellow oil (6.15 g). LCMS (System B): tRET=2.46 min; MH+ 278

reactant | 3-(2-Piperidinyl)-1-propanol | 60.7 mmol, 8.69 g | N1C(CCCC1)CCCO | C8H17NO
reactant | triethylamine | 74.6 mmol, 10.40 mL | C(C)N(CC)CC | C6H15N
reactant | Benzyl chloroformate | 66.7 mmol, 9.53 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetonitrile | 90 ml | C(C)#N | C2H3N
product | Phenylmethyl 2-(3-hydroxypropyl)-1-piperidinecarboxylate | 6.15 g | OCCCC1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C16H23NO3
